US03941806
5-Chloro-1-nitrosoindoline
A mixture of 77 g. (0.5 mole) of 5-chloroindoline, 80 ml. of concentrated hydrochloride acid and 500 ml. of crushed ice was stirred while a solution of 35 g. of sodium nitrite in 100 ml. of water was added over five minutes. The temperature was kept between 10°C. to 15°C. by addition of ice. The mixture was stirred for 1 hour and then filtered. Recrystallization of the product from benzene-isooctane gave 57 g. (68%) of product which melted at 120°-122°C.

reactant | 5-chloroindoline | 0.5 mole | ClC=1C=C2CCNC2=CC1 | C8H8ClN
reactant | hydrochloride | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-Chloro-1-nitrosoindoline | ClC=1C=C2CCN(C2=CC1)N=O | C8H7ClN2O
